US07163937B2
Preparation H7, Step 1: To a soultion of 3-(methoxycarbonyl)benzoic acid (800 mg, 4.4 mmol) in DMF (15 mL) at rt was added HATU (2 g, 5.3 mmol), 3-aminopropanenitrile (0.33 mL, 4.4 mmol), and iPr2NEt (0.92 mL, 5.3 mmol). The mixture was stirred at rt for 16 h before water and EtOAc were added. The organic layer was separated and re-washed twice before it was collected, dried over Na2SO4, and concentrated to provide methyl 3-((2-cyanoethyl)carbamoyl)benzoate as a glassy solid (900 mg). MS found: (M+H)+=233.

reactant | 3-(methoxycarbonyl)benzoic acid | 4.4 mmol, 800 mg | COC(=O)C=1C=C(C(=O)O)C=CC1 | C9H8O4
reactant | HATU | 5.3 mmol, 2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-aminopropanenitrile | 4.4 mmol, 0.33 mL | NCCC#N | C3H6N2
reactant | iPr2NEt | 5.3 mmol, 0.92 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | methyl 3-((2-cyanoethyl)carbamoyl)benzoate | 900 mg | C(#N)CCNC(=O)C=1C=C(C(=O)OC)C=CC1 | C12H12N2O3
